US07511033B2
4-(3-Bromo-phenyl)-7-(isobutyl-methyl-amino)-8-trifluoromethyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one
) The title compound was prepared from the above described {2-[3-(3-bromo-phenyl)-3-oxo-propionylamino]-5-(isobutyl-methyl-amino)-4-trifluoromethyl-phenyl}-carbamic acid tert-butyl ester (1.01 g, 1.72 mmol) and TFA (6.5 mL) in DCM (20 mL) according to general procedure I step 2. Obtained as a white solid (0.65 g, 81%). MS (ISP) 468.0 [(M+H)+]; mp 186° C. (dec).

reactant | {2-[3-(3-bromo-phenyl)-3-oxo-propionylamino]-5-(isobutyl-methyl-amino)-4-trifluoromethyl-phenyl}-carbamic acid tert-butyl ester | 1.72 mmol, 1.01 g | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N(C)CC(C)C)C(F)(F)F)NC(CC(=O)C1=CC(=CC=C1)Br)=O)=O | C26H31BrF3N3O4
reactant | TFA | 6.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | 4-(3-Bromo-phenyl)-7-(isobutyl-methyl-amino)-8-trifluoromethyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one | BrC=1C=C(C=CC1)C1=NC2=C(NC(C1)=O)C=C(C(=C2)N(C)CC(C)C)C(F)(F)F | C21H21BrF3N3O
